US07622469B2
4-Undecylamino-3,6-dihydro-6,6-dimethyl-2-(4′-methoxyphenethylamino)-1,3,5-triazine hydrochloride
100 ml of methanol, 40 ml of acetone and 0.2 ml of concentrated hydrochloric acid were added to 2.0 g (4.3 mmol) of N1-(4-methoxyphenethyl)-N5-undecyl-biguanide dihydrochloride, and the mixture was refluxed for 16 hours. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (elution with a mixture of chloroform/methanol/acetic acid (8:0.5:0.5)), and dissolved in hydrous ethanol. The solvent was distilled off under reduced pressure, followed by sufficient drying under reduced pressure to obtain 16 g of a colorless resinous solid.

reactant | methanol | 100 ml | CO | CH4O
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
reactant | N1-(4-methoxyphenethyl)-N5-undecyl-biguanide dihydrochloride | 4.3 mmol, 2.0 g | Cl.Cl.COC1=CC=C(CCNC(=N)NC(=N)NCCCCCCCCCCC)C=C1
reactant | acetone | 40 ml | CC(=O)C | C3H6O
product | 4-Undecylamino-3,6-dihydro-6,6-dimethyl-2-(4′-methoxyphenethylamino)-1,3,5-triazine hydrochloride | 16 g | Cl.C(CCCCCCCCCC)NC=1NC(=NC(N1)(C)C)NCCC1=CC=C(C=C1)OC | InChI=1S/C25H43N5O.ClH/c1-5-6-7-8-9-10-11-12-13-19-26-23-28-24(30-25(2,3)29-23)27-20-18-21-14-16-22(31-4)17-15-21;/h14-17H,5-13,18-20H2,1-4H3,(H3,26,27,28,29,30);1H
